US04678781
A mixture of diphenylmethyl 7-amino-3-azidomethylceph-3-em-4-carboxylate (1.2 g.), 2-fluoroimidazole hydrochloride (367 mg.) and acetonitrile (4 ml.) was stirred at 85°. When a complete solution was achieved DMF (1 ml.) was added. After 2 hours the solvent was evaporated and the residue, after drying overnight, was purified by chromatography on fine mesh silica (ratio 40:1 w/w) at 0° using methylene chloride/MeOH/HOAc 100:0:0 to 92:4:4 v/v/v as eluant. The oil obtained was dissolved in the minimum of methylene chloride and precipitated with ether. After drying there was obtained diphenylmethyl 3-azidomethyl-7-(imidazol-2-yl)aminoceph-3-em-4-carboxylate hydrochloride (38%) as a white powder having the following n.m.r. in solent A: 3.65 (d, 1H); 3.8 (d, 1H); 3.95 (d, 1H); 4.3 (d, 1H); 5.3 (d, 1H); 5.85 (d, 1H); 6.9 (s, 2H); 7.0 (s, 1H); 7.5-7.7 (m, 10H).

reactant | diphenylmethyl 7-amino-3-azidomethylceph-3-em-4-carboxylate | 1.2 g | NC1[C@@H]2N(C(=C(CS2)CN=[N+]=[N-])C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H19N5O3S
reactant | 2-fluoroimidazole hydrochloride | 367 mg | Cl.FC=1NC=CN1
reactant | acetonitrile | 4 ml | C(C)#N | C2H3N
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 3-azidomethyl-7-(imidazol-2-yl)aminoceph-3-em-4-carboxylate hydrochloride | 38% | Cl.N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC=2NC=CN2)=O | InChI=1S/C24H21N7O3S.ClH/c25-30-28-13-17-14-35-22-18(29-24-26-11-12-27-24)21(32)31(22)19(17)23(33)34-20(15-7-3-1-4-8-15)16-9-5-2-6-10-16;/h1-12,18,20,22H,13-14H2,(H2,26,27,29);1H/t18?,22-;/m1./s1
